US04533731
In 50 ml of absolute ethyl alcohol was dissolved 4.0 g of the 3-(3-diethylaminopropylamino)-5-iodoindazole, and into the solution was introduced dried hydrogen chloride gas under cooling with ice. Then to the solution was added anhydrous diethyl ether to separate crystals. The crystals were obtained by filtration and dried to give 3-(3-diethylaminopropylamino)-5-iodoindazole hydrochloride having the following analytical value.

reactant | 3-(3-diethylaminopropylamino)-5-iodoindazole | 4.0 g | C(C)N(CCCNC1=NNC2=CC=C(C=C12)I)CC | C14H21IN4
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
product | 3-(3-diethylaminopropylamino)-5-iodoindazole hydrochloride | Cl.C(C)N(CCCNC1=NNC2=CC=C(C=C12)I)CC | InChI=1S/C14H21IN4.ClH/c1-3-19(4-2)9-5-8-16-14-12-10-11(15)6-7-13(12)17-18-14;/h6-7,10H,3-5,8-9H2,1-2H3,(H2,16,17,18);1H
